US07268231B2
A suspension of 2-amino-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester (93.2 mg, 0.40 mmol), 2,4-dimethylbenzylbromide (79.64 mg, 0.40 mmol) and K2CO3 (83.01 mg, 0.60 mmol) in acetonitrile (8 mL) was heated to reflux under argon for 45 min. Partition between EtOAc and water to give a suspension. Filter off the solid to give 2-(2,4-dimethyl-benzylamino)-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester (35.0 mg). The filtrate was separated, dried to give an oil which was purified by preparative TLC, eluted with 50% nHex/EtOAc to give 60.0 mg of 2-(2, 4-dimethyl-benzylamino)-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester as a white solid (total yield: 95.0 mg, 67.7%).

reactant | 2-amino-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester | 0.40 mmol, 93.2 mg | C(C1=CC=CC=C1)OC(=O)N1C(=NC(C1)=O)N | C11H11N3O3
reactant | 2,4-dimethylbenzylbromide | 0.40 mmol, 79.64 mg | CC1=C(CBr)C=CC(=C1)C | C9H11Br
reactant | K2CO3 | 0.60 mmol, 83.01 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
product | 2-(2,4-dimethyl-benzylamino)-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester | 35.0 mg | C(C1=CC=CC=C1)OC(=O)N1C(=NC(C1)=O)NCC1=C(C=C(C=C1)C)C | C20H21N3O3
